US09120749B2
tert-Butyl 8-[6-bromo-3-(cyclopropanecarbonyl)quinolin-4-yl]-2,8-diazaspiro[4,5]decane-2-carboxylate
Following general procedure B, (6-bromo-4-chloroquinolin-3-yl)(cyclopropyl)methanone (200 mg, 0.640 mmol) was reacted with tert-butyl 2,8-diazaspiro[4,5]decane-2-carboxylate (169 mg, 0.704 mmol) to afford the desired product (240 mg, 73%) as a yellow foam: ESI MS m/z 514 [C26H32BrN3O3+H]+.

reactant | (6-bromo-4-chloroquinolin-3-yl)(cyclopropyl)methanone | 0.640 mmol, 200 mg | BrC=1C=C2C(=C(C=NC2=CC1)C(=O)C1CC1)Cl | C13H9BrClNO
reactant | tert-butyl 2,8-diazaspiro[4,5]decane-2-carboxylate | 0.704 mmol, 169 mg | C1N(CCC12CCNCC2)C(=O)OC(C)(C)C | C13H24N2O2
product | tert-Butyl 8-[6-bromo-3-(cyclopropanecarbonyl)quinolin-4-yl]-2,8-diazaspiro[4,5]decane-2-carboxylate | 240 mg, 73% | BrC=1C=C2C(=C(C=NC2=CC1)C(=O)C1CC1)N1CCC2(CCN(C2)C(=O)OC(C)(C)C)CC1 | C26H32BrN3O3
